US04032643
Hydrogen was added with stirring for 2 hours to a mixture of 25 g of ethyl 5-(2-propyl-5-thiazolyl)-2,4-pentadienoate, 250 ml of ethanol and 12.5 g of activated carbon containing 10% palladium and the mixture was filtered. The fiter was washed with ethanol and the filtrate was evaporated to dryness under reduced pressure to obtain 23 g of raw ethyl 2-propyl- 5-thiazolepentanoate.

reactant | Hydrogen | [H][H] | H2
reactant | ethyl 5-(2-propyl-5-thiazolyl)-2,4-pentadienoate | 25 g | C(CC)C=1SC(=CN1)C=CC=CC(=O)OCC | C13H17NO2S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 2-propyl- 5-thiazolepentanoate | 23 g | C(CC)C=1SC(=CN1)CCCCC(=O)OCC | C13H21NO2S
